US07407971B2
5-tert-Butyl 1-ethyl 3-({[(3-fluorophenyl)amino]carbonyl}amino)-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate
5-tert-Butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate (3.0 g, 9.24 mmol) was dissolved in anhydrous THF: (50 ml), treated at room temperature with 3-fluorophenyl-isocyanate (1.4 g, 10.21 mmol, 1.1 eq) and stirred overnight. The following day the reaction mixture was evaporated, taken up with DCM and washed with brine. The organic phase was dried over sodium sulfate and evaporated to dryness. Purification by flash chromatography (CH2Cl2/MeOH 90/10) afforded 3.05 g (yield 71%) of the title compound.

reactant | 5-tert-Butyl 1-ethyl 3-amino-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 9.24 mmol, 3.0 g | NC=1C2=C(N(N1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)(C)C | C15H24N4O4
reactant | 3-fluorophenyl-isocyanate | 10.21 mmol, 1.4 g, 1.1 eq | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | THF | C1CCOC1 | C4H8O
product | 5-tert-Butyl 1-ethyl 3-({[(3-fluorophenyl)amino]carbonyl}amino)-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-1,5-dicarboxylate | 3.05 g, yield 71% | FC=1C=C(C=CC1)NC(=O)NC=1C2=C(N(N1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)(C)C | C22H28FN5O5
